US06087380
2-[(4-amidinophenyl)sulphinylmethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
A solution of 0.15 g (0.27 mMol) of 2-[(4-amidinophenyl)thiomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride in 10 ml of acetic acid was mixed with 0.09 ml (about 0.81 mMol) of 30% hydrogen peroxide solution and stirred at room temperature. After 4 days a further 0.18 ml of hydrogen peroxide solution was added and the resulting mixture was stirred for a further two days. After removal of the solvent in vacuo the crude product obtained was purified by flash chromatography (silica gel; methylene chloride/ethanol=10:1 to 4:1). Yield: 58% of theory, C27H26N4O4S2 (534.66) Rf value: 0.24 (silica gel; methylene chloride/ethanol =4:1+a few drops of acetic acid) EKA mass spectrum: (M+H)+ =535

reactant | 2-[(4-amidinophenyl)thiomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | 0.27 mMol, 0.15 g | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CSC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC
reactant | hydrogen peroxide | about 0.81 mMol, 0.09 ml | OO | H2O2
reactant | hydrogen peroxide | 0.18 ml | OO | H2O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-[(4-amidinophenyl)sulphinylmethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 58% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CS(=O)C2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC | InChI=1S/C27H26N4O4S2.ClH/c1-2-35-25(32)14-15-31(20-6-4-3-5-7-20)27(33)19-10-13-23-22(16-19)30-24(36-23)17-37(34)21-11-8-18(9-12-21)26(28)29;/h3-13,16H,2,14-15,17H2,1H3,(H3,28,29);1H
